US06977263B2
A. 5-(3-chlorophenyl)-nicotinic Acid
A three neck flask was charged with 5-bromonicotinic acid (2 g, 9.90 mmol), 3-chlorophenylboronic acid (1.55 g, 9.90 mmol), a 0.4 M solution of sodiumcarbonate in water (37 mL, 14.8 mmol) and Acetonitrile (37 mL). The solution was degassed under vacuum and tetrakistriphenylphoshine Pd(0) (0.57 g, 0.495 mmol) was added and the reaction refluxed overnight under nitrogen. The reaction was cooled to room temperature and filtered through a celite pad. The filtrate was partially evaporated under reduced pressure and the remaining solution acidified to pH=2 with 1N HCl. The resulting solid was collected by filtration and dried under vacuum. 1H NMR [(CD3)2SO]: δ 9.15-9.05 (m, 2H), 8.45 (s, 1H), 7.85 (s, 1H), 7.80-7.65 (m, 1H), 7.60-7.42 (m, 2H).

reactant | 5-bromonicotinic acid | 9.90 mmol, 2 g | BrC=1C=NC=C(C(=O)O)C1 | C6H4BrNO2
reactant | 3-chlorophenylboronic acid | 9.90 mmol, 1.55 g | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | sodiumcarbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 14.8 mmol, 37 mL | O | H2O
solvent | Acetonitrile | 37 mL | C(C)#N | C2H3N
catalyst | tetrakistriphenylphoshine Pd(0) | 0.495 mmol, 0.57 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(3-chlorophenyl)-nicotinic Acid | ClC=1C=C(C=CC1)C=1C=NC=C(C(=O)O)C1 | C12H8ClNO2
